Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___
 
Chief Complaint:
Difficulty in breathing
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year-old female with a history of NSCLC 
(stage IV) who presents with shortness of breath.
.
The patient was in her usual state of health until the evening 
before admission when she began to feel somewhat short of 
breath.  The next morning, this sensation persisted, so she 
became concerned.  She also reports a few day history of a 
non-productive cough.  Denies sick contacts, recent travel or 
sedentary lifestyle.  She denied chest pain, fever, chills, 
dizziness, lightheadedness or syncope.  She presented to the ED 
where she was found to be hypoxic to the ___ on room air.
.  
In the ED, she was placed on a non-rebreather with sats up to 
the high 90's.  Attempts were made to wean her to NC but they 
were unsuccessful, as she was satting 88% on 4L NC.  She 
remained afebrile in the ED but was found to have WBC of 17.  
Given that, she received levofloxacin and vancomycin.  Blood 
cultures were drawn prior to antibiotic administration.  CXR did 
not show PNA, but demonstrated progression of known lung cancer. 
 She underwent a CT head to rule out metastases, which was 
negative.  On transfer, patient was afebrile with HR- 77, BP- 
112/49, RR- 16, SaO2- 98% on 15L NRB  
.
On transfer to the ICU, the patient was stable and comfortable.  
Sats were 97% on 5L NC and 95% high-flow with a face-tent.  
.  
ROS: The patient denies any fevers, chills, weight change, 
nausea, vomiting, abdominal pain, diarrhea, constipation, 
melena, hematochezia, chest pain, orthopnea, PND, lower 
extremity edema, cough, urinary frequency, urgency, dysuria, 
lightheadedness, gait unsteadiness, focal weakness, vision 
changes, headache, rash or skin changes.  
.  

 
Past Medical History:
CAD s/p MI ___ s/p CABG ___
Hypertension
Dyslipidemia
CVA: small left posterior frontal infarct in ___
Macular Degeneration
NSCLC- stage IV (oncology history below)
.
-- ___ presented in with unresolving right-sided pulmonary 
infiltrate and an unrelated myocardial infarction.
-- ___ Sputumcytology confirmed adenocarcinoma with a 
pattern of stainpositivity consistent with lung origin (CK7 and 
TTF-1 positive). She had stage IV nonsmall cell lung cancer, 
based on the multiple intrapulmonary lesions. She has no 
evidence of extrathoracic or central nervous system involvement 
with metastasis.
-- ___: Status post 6 cycles of pemetrexed 
500->400>200 mg/m2 on ___, 
___, and ___.  Her course was complicated by 
cytopenias and development of increased creatinine levels. 
-- ___ Chest CT showed partial response with interval 
improvement in the consolidation of the superior segment of the 
right lower lobe and nodular densities of the left lower lobe.  
Still widely disseminated BAC. 
-- ___ CT Chest shows increased density of right lower lobe
consolidation and worsened peribronchiolar ground-glass 
opacities
in the lingula are most consistent with worsening of widely
disseminated non-small cell lung cancer, much less likely due to
infection. 
-- ___ Chest CT: slight interval progression of known 
disease, no new sites.

 
Social History:
___
Family History:
Her father died due to CAD at age ___. Her mother had stomach 
cancer and osteosarcoma. No history of lung cancer, colon cancer 
or breast cancer.
 
Physical Exam:
On Admission:
Vitals: T: 96.9 BP: 118/51 HR: 94 RR: 18 O2Sat: 94% on 5L with 
face tent  
GEN: Well-appearing female in no acute distress  
HEENT: EOMI, PERRL, sclera anicteric, MMM, OP Clear  
NECK: No JVD, no cervical lymphadenopathy, trachea midline  
COR: Regular rate and rhythm, no M/G/R, normal S1 S2
PULM: Decreased breath sounds throughout.  minimally faint 
bibasilar crackles.  Good effort.    
ABD: Soft, NT, ND, +BS, no HSM,
EXT: No C/C/E  
NEURO: alert, oriented to person, place, and time. CN II  XII 
grossly intact. Moves all 4 extremities.  
SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses. 
 
.  

 
Pertinent Results:
___ 08:30PM   WBC-17.9*# RBC-3.36*# HGB-8.1* HCT-25.5* 
MCV-76* MCH-24.2* MCHC-31.8 RDW-15.8*
___ 08:30PM   PLT COUNT-341
___ 08:30PM   NEUTS-84* BANDS-7* LYMPHS-2* MONOS-7 EOS-0 
BASOS-0 ___ MYELOS-0
___ 08:30PM   HYPOCHROM-3+ ANISOCYT-1+ POIKILOCY-NORMAL 
MACROCYT-1+ MICROCYT-2+ POLYCHROM-1+ OVALOCYT-1+ TEARDROP-1+ 
ENVELOP-1+
___ 08:30PM   ___ PTT-26.5 ___
___ 08:30PM   GLUCOSE-117* UREA N-71* CREAT-2.8* SODIUM-135 
POTASSIUM-4.9 CHLORIDE-98 TOTAL CO2-23 ANION GAP-19
___ 08:43PM   LACTATE-2.6*
___ 08:30PM   cTropnT-<0.01
___ 10:46PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:46PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
.
Micro:
Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN
.
Urine cx:   URINE CULTURE (Final ___:    NO GROWTH.

Blood cx: NGTD
.
Studies/Imaging:
.
EKG: ___
Sinus rhythm at 68 bpm, normal axis, normal intervals, poor 
R-wave progresion, ST-depressions in V4-V6.
.
CXR: ___
SINGLE AP VIEW OF THE CHEST: Patient is status post median 
sternotomy. The 
cardiac, mediastinal and hilar contours are unchanged. There 
continues to be progression of disease with increased extent of 
consolidative opacity within the right lung base. Ill-defined 
opacities within the lingula and left lower lobe are similar to 
prior. Small right pleural effusion is present. There is no 
pneumothorax. There is hyperinflation of the lungs. 
IMPRESSION: Evidence of disease progression. 
.
CT Head: ___
FINDINGS: There is no evidence of acute hemorrhage, edema, mass 
effect or 
recent infarction. An area of encephalomalacia in the left 
frontal lobe, 
compatible with chronic infarct is unchanged. Prominence of the 
ventricles 
and sulci reflects generalized atrophy, notably in the bifrontal 
extraaxial spaces. Areas of periventricular and subcortical 
white matter hypodensity likely reflect sequela of chronic small 
vessel ischemic disease. No concerning osseous lesion is seen. 
There are calcifications of the bilateral carotid siphons. The 
visualized paranasal sinuses are grossly unremarkable. 
IMPRESSION: No evidence of acute intracranial process or mass 
effect 
.
LENIs: ___
IMPRESSION: No evidence of DVT. 
.
CT chest ___
IMPRESSION:  
1. Interval worsening of diffuse bilateral ground-glass 
opacities, 
bronchiolar nodules and dense consolidation within the lingula 
and right 
middle lobe. After review of multiple recent prior chest x-rays 
and CTs, these findings can all be explained by worsening 
bronchioalveolar carcinoma, given the absence of any change 
rapid enough to suggest pneumonia. Of course pneumonia might be 
present and unrecognized, and treatment should be made on the 
basis of clinical findings. 
2. Stable mild cardiomegaly. 
3. Moderate emphysema. 
4. Cholelithiasis without evidence of cholecystitis. 

 
Brief Hospital Course:
___ female with NSCLC stage IV presents with hypoxia.
.
#. Hypoxia. On admission patient with chief complaints of 
progressive shortness of breath and non-productive cough. No 
home oxygen requirement at baseline. On admission she was placed 
on NRB for treatment of O2 saturations in ___ saturations in the 
___.  Admission CXR with no definite infiltrate, though concern 
for progression of her known lung disease. In setting of 
elevated WBC. concern for infectious process and empirically 
treated with levofloxacin and vancomycin in the ED. Transitioned 
to monotherapy with levofloxacin on ___ and ceftriaxone was 
later added on ___. CXR on ___ demonstrates new left lower 
lobe consolidation. Additional hypoxia work-up notable for 
negative biomarkers, negative LENIs; unable to perform CTA due 
to chronic kidney disease and creatinine 2.8. Patient was able 
to be weaned back to room air by the end of her FICU stay. She 
was transferred to the medical floor on ___, where she 
demonstrated exertional hypoxia, usually asymptomatic. Home O2 
was arranged.
.
# Post-obstructive pneumonia. Consolidation of left lower lobe 
evident on ___ likely secondary to infection rather than 
progression of disease due to short time course of infiltrate 
development (although on CT scan of ___, the radiologist 
concluded the opposite: that changes seen were likely caused by 
her NSCLC, though pneumonia could not be absolutely ruled out). 
Continued course of ceftriaxone, levofloxacin, which was 
eventually narrowed to levofloxacin alone. Blood cultures no 
growth to date. Multiple sputum cultures obtained; however, all 
contaminated with oral flora. Urine legionella negative. Patient 
did improve clinically with antibiotics, so she should complete 
a ___ day course of levofloxacin.
.
#  NSCLC- stage IV. Not currently receiving chemotherapy.  
Outpatient oncologist Dr. ___ is planning on continued 
surveillance with plan for possible further palliative systemic 
chemotherapy if symptomatic progression of her disease is noted. 
CT scan for evaluation of disease progression was obtained and 
did show further progression. Dr. ___ plans to weigh the risks 
and benefits of additional chemotherapy, as it will be 
complicated by her kidney dysfunction and other comorbidities. 
He plans to repeat her CT scan once she completes her 
antibiotics to further evaluate the rate of disease progression.
.    
#  CAD s/p MI. Patient without chest pain; however, EKG with new 
ST-depressions. Biomarkers cycled and negative x2. Patient 
continued on home beta-blocker at a decreased dose due to 
relative hypotension. She was maintained on aspirin, plavix, and 
statin.
.
# chronic systolic CHF (LVEF ___ by TTE ___: 
Well-compensated. As described below, lasix was held but 
B-blocker was given at a lower dose given relative hypotension 
and exertional tachycardia.
.
#  CKD stage III: Creatinine on admission 2.8, down to 2.4 by 
the time of discharge. She was given minimal IV fluids in the 
ICU and her lasix was held. Throughout stay, patient had 
adequate urine output. 
.
#  Microcytic anemia. On presentation, patient's Hct likely 
hemoconcentrated. Follow-up Hct found to be 20. No signs of 
bleeding on exam. Patient transfused 2units of pRBC due to 
history of CAD with appropriate elevation in hematocrit. The 
hematocrit did remain steady during FICU course following 
tranfusion. Just before transfer from ___, the patient's stool 
guaiac was positive, which may call for further work-up. The 
patient's anemia is most likely secondary to acute inflammation 
in the setting of underlying chronic disease. 
.
 
Medications on Admission:
amlodipine 5 mg Tablet- one Tablet(s) by mouth one daily  
atorvastatin [Lipitor] 80 mg Tablet- one Tablet(s) by mouth one 
daily 
calcitriol 0.25 mcg Capsule- 1 Capsule(s) by mouth once a day
clopidogrel [Plavix] 75 mg Tablet 1 Tablet(s) by mouth once a 
day 
folic acid- 1 mg Tablet one Tablet(s) by mouth one daily 
furosemide 40 mg Tablet- 1 Tablet(s) by mouth daily
loperamide 2 mg Capsule- one Capsule(s) by mouth one twice daily 
as needed 
lorazepam 0.5 mg Tablet ___ Tablet(s) by mouth q6 hours as 
needed for Nausea 
metoprolol tartrate [Lopressor] 50 mg Tablet- one Tablet(s) by 
mouth ___ AM and one in ___ 
tramadol 50 mg Tablet- 0.5 (One half) Tablet(s) by mouth three 
times a day as needed for Pain  
trazodone 50 mg Tablet- one Tablet(s) by mouth one daily as 
needed 
aspirin 81 mg Tablet, Chewable- 2 Tablet(s) by mouth one daily 
ranitidine HCl [Acid Control] 150 mg Tablet- one Tablet(s) by 
mouth one daily 
 
Discharge Medications:
1. oxygen
___ continuous, pulse dose for portability
Dx: lung cancer
2. levofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q48H (every 
48 hours) for 2 weeks: last day ___.
Disp:*4 Tablet(s)* Refills:*0*
3. atorvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO twice 
a day: PLEASE NOTE THIS IS A CHANGE FROM YOUR PREVIOUS EVENING 
DOSING.  
5. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): hold if loose stools.  
6. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
7. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
10. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
11. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# post-obstructive pneumonia
# non small cell lung cancer stage IV, progressing
.
SECONDARY DIAGNOSES:
# anemia of acute inflammation
# CAD s/p MI
# chronic systolic CHF
# HTN
# CKD stage III

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted with cough and found to have low oxygen levels 
which required the Intensive Care Unit. Your CT shows 
progression of your lung cancer with a probable superimposed 
pneumonia. You were treated with antibiotics and oxygen and 
improved, and you were tranferred to the medical floor. You were 
continued on antibiotics, and your oxygen levels were monitored 
closely. We communicated with your primary oncologist, Dr. 
___, who will weigh the risks and benefits of 
additional chemotherapy, as it will be complicated by your 
kidney dysfunction and other medical problems. He plans to 
repeat your CT scan once you finish your antibiotics to further 
evaluate the rate of your disease progression.

Your congestive heart failure has been stable. Please note we 
stopped your lasix and amlodipine for now, and you will need to 
be re-evaluated by your PCP to see when you should restart them. 
We also decreased your evening dose of metoprolol. As usual, 
please weigh yourself every morning, and call MD if weight goes 
up more than 3 lbs.
 
Followup Instructions:
___